US07495014B2
5-Fluoro-2-nitro-3-pyrimidin-2-yl-phenylamine:
To a solution of 2-(3,5-difluoro-2-nitro-phenyl)-pyrimidine (1.5 g, 6.32 mmoles) in dioxane (10 mL) was added tBuNH2 (6.6 mL, 63.24 mmoles) at room temperature. The mixture was heated to 100° C. in a sealed tube for 10 hours. The mixture was then cooled to room temperature, poured into water, and the solids stirred for 1 hour. The mixture was filtered, solids washed with water until filtrate was clear. The crude product was then diluted in MeOH, 6NHCl added, and the resulting mixture heated at reflux for 3 hours. The reaction was cooled to room temperature and poured into ice. The resulting heterogeneous mixture was warmed to room temperature, filtered, solids washed with water until filtrate ran clear, and dried in vacuo to afford the title compound (1.33 g, 90%) as an orange powder. 1H NMR (dmso-d6, 500 MHz): 8.87 (d, 2H); 7.52 (dd, 1H); 7.08 (dd, 1H); 6.86 (dd, 1H); 6.60 (s, 2H).

reactant | 2-(3,5-difluoro-2-nitro-phenyl)-pyrimidine | 6.32 mmoles, 1.5 g | FC=1C(=C(C=C(C1)F)C1=NC=CC=N1)[N+](=O)[O-] | C10H5F2N3O2
reactant | tBuNH2 | 63.24 mmoles, 6.6 mL | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-Fluoro-2-nitro-3-pyrimidin-2-yl-phenylamine | 1.33 g, 90% | FC=1C=C(C(=C(C1)N)[N+](=O)[O-])C1=NC=CC=N1 | C10H7FN4O2
